US03947577
3,5-DI(4-pyridyl)-1,2,4-triazole (0.5 grams) is added to butyric anhydride (10 ml.), and the reaction mixture is heated at steam bath temperatures for 20 hours. The resulting solution is concentrated until a solid separates out of solution, and the solid is collected by filtration. Upon recrystallization from hexane, 1-butyryl-3,5-di(4-pyridyl)-1,2,4-triazole is obtained, m.p. 116°-118°C.

reactant | 3,5-DI(4-pyridyl)-1,2,4-triazole | 0.5 grams | N1=CC=C(C=C1)C1=NNC(=N1)C1=CC=NC=C1 | C12H9N5
reactant | butyric anhydride | 10 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 1-butyryl-3,5-di(4-pyridyl)-1,2,4-triazole | C(CCC)(=O)N1N=C(N=C1C1=CC=NC=C1)C1=CC=NC=C1 | C16H15N5O
